US05001125
A mixture of 1.9 parts of phenol, 2.9 parts of 3-chloro-6-[4-(3-methylpheyl)-1-piperazinyl]pyridazine and 2.76 parts of potassium carbonate was stirred and heated for 7 hours in an oil bath at 150° C. After cooling, water was added. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from a mixture of 2-propanol and 2,2'-oxybispropane. The product was filtered off and dried, yielding 2 parts (60%) of 3-[4-(3-methylphenyl)-1-piperazinyl]-6-phenoxypyridazine: mp. 123.4° C. (compound 264).

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | 3-chloro-6-[4-(3-methylpheyl)-1-piperazinyl]pyridazine | ClC=1N=NC(=CC1)N1CCN(CC1)C1=CC(=CC=C1)C | C15H17ClN4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 3-[4-(3-methylphenyl)-1-piperazinyl]-6-phenoxypyridazine | 60% | CC=1C=C(C=CC1)N1CCN(CC1)C=1N=NC(=CC1)OC1=CC=CC=C1 | C21H22N4O
